US05843942
A suspension of 6-(ethylamino)nicotinic acid (50 g, 0.3 mol) in methanol (500 ml) was treated with concentrated H2SO4 (30 ml). The reaction was heated at reflux for 18 hours. The reaction mixture was then evaporated, poured into ice water (1 L) and adjusted to pH8 with solid sodium hydrogen carbonate (foaming). The aqueous mixture was extracted with ethyl acetate (3×300 ml) and the organic layers combined, dried (MgSO4) and evaporated to give methyl 6-(ethylamino)nicotinoate as an off-white solid (45.5 g, 84%).

reactant | 6-(ethylamino)nicotinic acid | 0.3 mol, 50 g | C(C)NC1=NC=C(C(=O)O)C=C1 | C8H10N2O2
reactant | H2SO4 | 30 ml | OS(=O)(=O)O | H2O4S
reactant | methanol | 500 ml | CO | CH4O
product | methyl 6-(ethylamino)nicotinoate | 45.5 g, 84% | C(C)NC1=NC=C(C(=O)OC)C=C1 | C9H12N2O2
